US04929639
To a solution of (2R,4R,5S)-4-formyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (47 mg) in ethanol (1 ml) was added thenohydrazide (27 mg) and the mixture was stirred at room temperature for 1 hour, and then added sodium cyanoborohydride (20 mg) and acetic acid (0.25 ml) and the mixture was stirred for 1 hour. Aqueous sodium bicarbonate was added and extracted with chloroform and the organic layers were combined and dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo to give (2R,4R,5S) -5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-(N'-thenoylhydrazino)methyl-1,3-dioxane as a residue and the residue was dissolved in methanol (2 ml) and added 1N aqueous sodium hydroxide (0.4 ml) and stirred at room temperature for 4 hours. The reaction mixture was evaporated in vacuo and the residue was neutralized with 1N hydrochloric acid and extracted with chloroform. The organic layers were combined and dried over sodium sulfate. The solvent was evaporated in vacuo and the crude product was purified with preparative TLC (ethyl acetate as an eluent) to give (2R,4R,5S)-5-[(Z)-6-carboxy-2-hexenyl]-2-methyl-4-(N'-thenoylhydrazino)methyl-1,3-dioxane (55 mg).

reactant | (2R,4R,5S)-4-formyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 47 mg | C(=O)[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C14H22O5
reactant | thenohydrazide | 27 mg | C1(=CC=CS1)C(=O)NN | C5H6N2OS
reactant | sodium cyanoborohydride | 20 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
product | (2R,4R,5S) -5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-(N'-thenoylhydrazino)methyl-1,3-dioxane | COC(=O)CCC\C=C/C[C@@H]1[C@@H](O[C@@H](OC1)C)CNNC(C1=CC=CS1)=O | C19H28N2O5S
